Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Statins-Hmg-Coa Reductase Inhibitors / cholestyramine / codeine 
/ oxycodone / spironolactone / cephalexin / fentanyl / 
simvastatin / tramadol / doxazosin / diltiazem / midazolam / 
mushroom
 
Attending: ___.
 
Chief Complaint:
Syncope
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is an ___ year old man with a history of CAD s/p 
CABG and multiple PCI's as well as Afib on coumadin and 
sick-sinus syndrome s/p single-lead PPM and s/p failed attempt 
at LV lead placement ___, and with CKDIII who presents 
after an episode of syncope. EP is consulted for device 
interrogation and consideration for an additional attempt at CRT 
upgrade. 

With regard to his syncope, Mr. ___ has a long history of 
frequent syncopal episodes. He reports someone had previously 
suggested that his syncope might improve following PPM 
implantation but that he has continue having episodes since that 
time. One of these episodes ___ years ago happened while he was
fishing and he very nearly drowned. That ended his fishing 
career. He is not sure what the syncope is from but endorses 
being told that these episodes are "orthostatic" and 
"vaso-vagal". 

Notably, Mr. ___ also went for an attempt at LV lead placement 
on ___ with Dr ___ at ___. He 
apparently could not successfully place an LV lead. The PPM 
pocket is healing well, and while there is some slight serous 
color change over the bandage, the incision has not been painful
or raised.  

He reports that on the day of presentation he was 
gardening/cleaning out his son's grave when he felt these 
typical lightheadedness/dizziness symptoms. He sat down, and 
after some improvement walked to his car. He sat in the car for 
~30 minutes and felt back to baseline. He then drove home and at 
home he sat
down in his sun room as part of his typical routine to recover 
from gardening when he lost consciousness. His wife woke him up 
and while sometimes, she is not so disturbed by his syncopal 
episodes, this one frightened her. She activated EMS and he was 
brought to ___ where a CTA of the head and neck was normal. 

He was transferred due to reduced electro physiology services at 
___ over the weekend. He receives his care typically through 
___. He had his CABG done at ___, but all his PCI's at ___. He 
was brought to ___ after his syncope, and wanted to be 
transferred to ___, but as they were on a "Code Help" he was 
transferred to ___.
 
Past Medical History:
  Chest pain
  Atrial fibrillation
  CAD (coronary artery disease)
  High cholesterol
  GERD (gastroesophageal reflux disease)
  Dilation of esophagus
  HTN (hypertension)
  Pacemaker
  Hx of CABG
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or
sudden cardiac death.
 
Physical Exam:
On Admission:
VS: 98.1, 158/75, 72, 20, 97% Ra 
GEN: well appearing, NAD
HEENT: MMM
CV: pressure dressing over PPM on left chest wall, RRR no mrg
PULM: CTA b/l no wrc
GI: S/ND/NT
EXT: WWP non-edematous

At discharge:
Vitals: 98.1, 129/74, 71, 20, 94% RA
Heart: RRR S1, S2
Lungs: CTA bilaterally
Abd: benign
Ext: No edema
Left chest wall access site: Trace edema, Steri-Strips intact

 
Pertinent Results:
LABS: 
___ 09:24PM BLOOD WBC-9.5 RBC-3.79* Hgb-11.8* Hct-36.5* 
MCV-96 MCH-31.1 MCHC-32.3 RDW-13.4 RDWSD-47.8* Plt ___
___ 08:02AM BLOOD WBC-8.9 RBC-4.15* Hgb-13.0* Hct-39.7* 
MCV-96 MCH-31.3 MCHC-32.7 RDW-13.6 RDWSD-48.1* Plt ___

___ 09:24PM BLOOD Glucose-110* UreaN-37* Creat-1.9* Na-138 
K-5.5* Cl-101 HCO3-24 AnGap-13
___ 08:02AM BLOOD Glucose-99 UreaN-32* Creat-1.7* Na-142 
K-4.6 Cl-101 HCO3-26 AnGap-___ pmhx CAD s/p CABG & multiple stents, Afib on Coumadin, 
ischemic cardiomyopathy EF35%, recent failed attempt to upgrade 
single chamber PPM for CRT-P upgrade, CKD (b/l Cr 1.6-1.9) who 
presented to ___ after syncopal episode and transferred to ___ 
for further evaluation.
 
# Syncope: In setting of syncope at baseline ? orthostatic vs 
vasovagal many years.  Pt reports his PCP & cardiologist 
frequently check his orthostatic vital signs and his blood 
pressure always "changes." He does report lightheadedness if he 
moves too quickly that often resolves after a few seconds at 
baseline. Furthermore, he states he passes out often. His wife 
is used to this pattern but this past event concerned her more 
than usual prompting her to call ___.  No recent echo on file 
for valvular disease but exam not c/w this. Isosorbide was 
stopped and metoprolol was decreased from 100 mg twice daily to 
once daily. No lightheadedness this morning. 
- EP consult: PPM with appropriate function. Interrogation 
reveals no arrhythmias that would cause syncope. No need for CRT 
device indicated at this time. We will discharge him and have 
him follow-up with his cardiologist at ___ to determine whether 
he is a candidate for an upgrade of his pacemaker.
- Advised patient to monitor symptoms over the next week and 
discuss BP medication changes with Dr. ___ at appointment 
next ___. 

# CAD s/p CABG, 8 stents
- Continue aspirin and rosuvastatin

# Afib on Coumadin
CHADS2VASC=5. Managed by Dr. ___ RN at ___
- Home Coumadin continued 
- Metoprolol reduced to daily dosing from twice daily as above 
due to orthostasis

# HFrEF: ___ CRT-upgrade at ___ ___ was unsuccessful. 
Appreciate EP assessment
- Continue home Lasix/eplerenone 
- Continue home lisinopril 
- Continue home digoxin 

# CKD (b/l Cr 1.6-1.9): Creat 1.7 today.
-Renally dose medications

# BPH
- Continue home tamsulosin
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Warfarin 3 mg PO ON M W F 
2. Rosuvastatin Calcium 20 mg PO QPM 
3. Digoxin 0.125 mg PO TWICE A WEEK M *& TH 
4. Lisinopril 10 mg PO DAILY 
5. Eplerenone 12.5 mg PO DAILY 
6. Metoprolol Succinate XL 100 mg PO BID 
7. Tamsulosin 0.4 mg PO QHS 
8. Furosemide 20 mg PO BID 
9. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
10. Aspirin 81 mg PO DAILY 
11. Warfarin 1.5 mg PO ON SUN, TUES, THURS,SAT 
12. Acetaminophen 325 mg PO Q HS PRN  Pain - Mild/Fever 

 
Discharge Medications:
1.  Metoprolol Succinate XL 100 mg PO DAILY  
2.  Acetaminophen 325 mg PO Q HS PRN  Pain - Mild/Fever  
3.  Aspirin 81 mg PO DAILY  
4.  Digoxin 0.125 mg PO TWICE A WEEK M *& TH  
5.  Eplerenone 12.5 mg PO DAILY  
6.  Furosemide 20 mg PO BID  
7.  Lisinopril 10 mg PO DAILY  
8.  Rosuvastatin Calcium 20 mg PO QPM  
9.  Tamsulosin 0.4 mg PO QHS  
10.  Warfarin 3 mg PO ON M W F  
11.  Warfarin 1.5 mg PO 4X/WEEK (___)  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Syncope
Coronary Artery Disease
Atrial Fibrillation
Ischemic Cardiomyopathy
Chronic Kidney Disease 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

 
 WHY WAS I IN THE HOSPITAL? 
 ========================== 
 - You were transferred to ___ from ___ for 
further evaluation after a syncopal (passing out) episode. 

 WHAT HAPPENED IN THE HOSPITAL? 
 ============================== 
- Your device was interrogated by the electrophysiology (EP) 
specialists. It was felt that you do not urgently need an 
additional lead placed at this time and you should continue to 
follow with your ___ providers. 
- You blood pressure medicines were changed.  

 WHAT SHOULD I DO WHEN I GO HOME? 
 ================================ 
 - Take all of your medications as prescribed (listed below). We 
have made adjustments including decreasing her metoprolol to 
just once a day and stopping the isosorbide.  Our hope is that 
this will prevent your blood pressure from going too low and 
causing the dizziness when you stand up.  Dr. ___ make 
further adjustments when she sees you in 1 week.
 - Please follow the instructions regarding wound care of your 
device.  Please leave the small bandages intact.  They will peel 
off by themselves in ___ weeks.
 - Follow up with your doctors as listed below 
 - Weigh yourself every morning, seek medical attention if your 
weight goes up more than 3 lbs. Your weight at discharge is 81.3 
kg/ 179.2 lb. Please weigh yourself today at home and use this 
as your new baseline
 - You should call an ambulance for any chest pain experienced 
after discharge

 It was a pleasure participating in your care. 

 If you have any urgent questions that are related to your 
recovery from your hospitalization or are experiencing any 
symptoms that are concerning to you and you think you may need 
to return to the hospital, please call the ___ HeartLine at 
___ to speak to a cardiologist or cardiac nurse 
practitioner. 

It was a pleasure taking care of you at the ___ 
___. 

 -Your ___ Care Team  
 
Followup Instructions:
___